US08084483B2
2-hydroxy-2-(3,4,5-trihydroxytetrahydrofuran-2-yl)ethyl 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate
Phosphorus oxychloride (2.4 mmol) is added dropwise over 5 mins to a solution of 2-(5-bromo-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid (810 mg, 2.0 mmol) in pyridine (20 mL) at 0° C. The mixture is stirred at 0° C. for a further 1 hour and then 1,2-O-isopropilydene-□-D-glucofuranose (440 mg, 2.0 mmol) dissolved in pyridine (5 mL) is added dropwise over 5 mins. The mixture is stirred at 0° C. for a further 3 hours and 1 hour at 20° C. and then quenched by addition of water (1 mL). Volatile solvents are removed in vacuo and DCM (200 mL) added. The organic phase is washed with water (1×50 mL), saturated sodium carbonate solution (1×50 mL) and brine (1×50 mL), dried over Na2SO4 and concentrated to dryness. Ethanol and water are added to produce a solid which is collected by filtration. Additional product is recovered by extraction of the filtrate with DCM. Combined product is concentrated, dried and purified by column chromatography (acetone/DCM eluent). The combined solids are dissolved in acetic acid (25 mL) and water (5 mL) mixture, heated at 60° C. for 3 hours. Volatile solvents are removed in vacuo. Ethanol and water are added to produce a solid which is collected by filtration.

reactant | Phosphorus oxychloride | 2.4 mmol | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(5-bromo-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazol-3-ylthio)acetic acid | 2.0 mmol, 810 mg | BrC=1N(C(=NN1)SCC(=O)O)C1=CC=C(C2=CC=CC=C12)C1CC1 | C17H14BrN3O2S
reactant | D-glucofuranose | 2.0 mmol, 440 mg | OC1[C@H](O)[C@@H](O)[C@H](O1)[C@H](O)CO | C6H12O6
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-hydroxy-2-(3,4,5-trihydroxytetrahydrofuran-2-yl)ethyl 2-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)acetate | BrC=1N(C(=NN1)SCC(=O)OCC(C1OC(C(C1O)O)O)O)C1=CC=C(C2=CC=CC=C12)C1CC1 | C23H24BrN3O7S
